US04868165
(a) Synthesis of 3β,24ξ-dihydroxy-24-tris(methyl-thio)methylchol-5-ene
Under an argon atmosphere at -78° C., 10.4 ml (17.7 mmoles) of a hexane solution of n-butyllithium was added to a solution of 2.4 ml (18.0 mmoles) of tris(methylthio)methane in 40 ml of tetrahydrofuran (THF for short), and the mixture was stirred for 40 minutes at the same temperature. To the mixture was added dropwise 15 ml of a THF solution of 798 mg (1.8 mmoles) of 3β-hydroxychol-5-en-24-al [compound of formula(VI)], and the mixture was stirred at -78° C. for 40 minutes. The mixture was extracted with ether in a customary manner, and the resulting residue was dissolved in a mixture of 10 ml of THF and 5 ml of methanol. Four drops of 2N hydrochloric acid was added, and the mixture was stirred at room temperature for 100 minutes. The mixture was extracted with ether in a customary manner, and the resulting crude product was purified by silica gel column chromatography [31 g; eluted with hexane/ethyl acetate (10:1)] to give 651 mg of the captioned compound having a melting point of141° to 143° C. (recrystallized from methanol).

reactant | hexane | 17.7 mmoles, 10.4 ml | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | tris(methylthio)methane | 18.0 mmoles, 2.4 ml | CSC(SC)SC | C4H10S3
reactant | 3β-hydroxychol-5-en-24-al | 1.8 mmoles, 798 mg | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C24H38O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3β,24ξ-dihydroxy-24-tris(methyl-thio)methylchol-5-ene | 651 mg | O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(SC)(SC)SC)O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H48O2S3
